US07456289B2
MnO2 (1.720 g, 20 mmol) was added to 2-methoxy-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine in 20 mL of anhydrous CH2Cl2 at room temperature. The mixture was stirred for 8 h, diluted with anhydrous ether (50 mL), and filtered through a pad of Celite. The filtrate was concentrated in vacuo, and the residue was purified on a silica gel column eluting with MeOH/CH2Cl2 (1:9) to give 2-methoxy-7H-pyrrolo[2,3-d]pyrimidine (0.149 g, 90%).

reactant | 2-methoxy-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1N=CC2=C(N1)NCC2 | C7H9N3O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
catalyst | MnO2 | 20 mmol, 1.720 g | O=[Mn]=O
product | 2-methoxy-7H-pyrrolo[2,3-d]pyrimidine | 0.149 g, 90% | COC=1N=CC2=C(N1)NC=C2 | C7H7N3O
